* D:\ECE_Projects\Music_Visualizer\Misc\LM3915_Base_Circuit.asc
D1 N001 N011 NSCW100
D2 N001 N009 NSCW100
D3 N001 N007 NSCW100
D4 N001 N005 NSCW100
D5 N001 N003 NSCW100
D6 N001 N002 NSCW100
D7 N001 N004 NSCW100
D8 N001 N006 NSCW100
D9 N001 N008 NSCW100
D10 N001 N010 NSCW100
V1 N001 0 5
C1 N001 0 220µ
Vcc Vcc 0 9
V2 Vs 0 SINE(0 5 10)
R1 Vi 0 20k
D11 Ao Vi D
XU2 Vs Vi Vcc 0 Ao AD8606
C2 Vi 0 1µ
XU3 N001 N014 Vi N001 0 N012 N011 N010 N009 N007 N005 N003 N002 N004 N006 N008 N013 0 lm3915
R2 Vcc N014 4k
R3 N014 0 5k
R4 N013 N012 1.25k
R5 N012 0 1.25k
.model D D
.lib C:\Users\Ghani\Documents\LTspiceXVII\lib\cmp\standard.dio
.tran 1
.lib ADI.lib
.lib C:\Users\Ghani\Downloads\LM3914 andLM3915\LM3915.sub
.backanno
.end
