* D:\ECE_Projects\Music_Visualizer\Misc\LM3915_Base_Circuit.asc
D1 Vcc LED1 NSCW100
D2 Vcc LED2 NSCW100
D3 Vcc LED3 NSCW100
D4 Vcc LED4 NSCW100
D5 Vcc LED5 NSCW100
D6 Vcc LED6 NSCW100
D7 Vcc LED7 NSCW100
D8 Vcc LED8 NSCW100
D9 Vcc LED9 NSCW100
D10 Vcc LED10 NSCW100
C1 Vcc 0 220µ
Vcc Vcc 0 9
V2 Vs 0 SINE(0 0.316 50)
R1 Vi 0 20k
D11 Ao Vi D
XU2 Vs Vi Vcc 0 Ao AD8606
C2 Vi 0 1µ
XU3 Vcc N003 Vi Vcc 0 N001 LED1 LED10 LED2 LED3 LED4 LED5 LED6 LED7 LED8 LED9 N002 0 lm3915
R2 Vcc N003 40k
R3 N003 0 5k
R4 N002 N001 1.25k
R5 N001 0 1.25k
.model D D
.lib C:\Users\Ghani\Documents\LTspiceXVII\lib\cmp\standard.dio
.tran 0.1
.lib ADI.lib
.lib C:\Users\Ghani\Downloads\LM3914 andLM3915\LM3915.sub
.backanno
.end
